US06284892B1
Production of 1-methoxycarbonyl-2-iminopyrrolidine Hydrochloride
77 g hydrogen chloride are introduced, with slight cooling, into 155 g (1.04 mole) N-(cyanopropyl)-carbamic acid methylester in 200 ml toluene at 20° C. During this procedure the product precipitates after only a short time. It is worked up as normal. 180 g of product are obtained. This corresponds to a yield of 93%.

reactant | hydrogen chloride | 77 g | Cl | ClH
reactant | N-(cyanopropyl)-carbamic acid methylester | 1.04 mole, 155 g | COC(NCCCC#N)=O | C6H10N2O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methoxycarbonyl-2-iminopyrrolidine Hydrochloride | 180 g, yield of 93% | Cl.COC(=O)N1C(CCC1)=N | InChI=1S/C6H10N2O2.ClH/c1-10-6(9)8-4-2-3-5(8)7;/h7H,2-4H2,1H3;1H
